US09388440B2
10 gms of 5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoic acid methyl ester was dissolved in 500 ml of tetrahydrofuran and cool the reaction mass to −20 to −25° C. To the reaction mass 16 ml of 1M Lithium bis(trimethylsilyl)amide was added under nitrogen atmosphere and stirred for about 30 minutes. To the reaction mass 100 ml of 2 N hydrochloride solution was added at 20-25° C. Stirred the reaction mass by adding 150 ml of ethyl acetate and separated the organic layer. Washed the organic layer with water and dried over sodium sulphate. Distilled the solvent completely under reduced pressure at 50-55° C. to get 8.0 gms of 3-[3-Benzyloxy-3-(4-fluoro-phenyl)-propyl]-4-(4-benzyloxy-phenyl)-1-(4-fluoro-phenyl)-azetidin-2-one.

reactant | 5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoic acid methyl ester | 10 gms | COC(C(CCC(C1=CC=C(C=C1)F)OCC1=CC=CC=C1)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C39H37F2NO4
reactant | Lithium bis(trimethylsilyl)amide | 1M, 16 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hydrochloride | 2 N, 100 ml | Cl | ClH
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3-[3-Benzyloxy-3-(4-fluoro-phenyl)-propyl]-4-(4-benzyloxy-phenyl)-1-(4-fluoro-phenyl)-azetidin-2-one | 8.0 gms | C(C1=CC=CC=C1)OC(CCC1C(N(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C38H33F2NO3
